data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_128043_2,[C:1](/[C:4](=[C:3](/[N:6]([H:11])[H:12])[O:8][C:5]([C:2]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])[O:9][H:10])([H:13])([H:14])[H:15]>>[C:1]([C:4]([C:3]([N:6]([H:11])[H:12])=[O:8])([C:5]([C:2]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])[O:9][H:10])([H:13])([H:14])[H:15],55.8813850000206
MR_218770_0,[C@:1]([C:2]([O:5][O:6][H:8])([H:13])[H:14])([C:3]([O:7][H:9])([H:15])[H:16])([N:4]([H:11])[H:12])[H:10]>>[C@:1]([C:2]([C:3]([O:7][H:9])([H:15])[H:16])([H:13])[H:14])([N:4]([H:11])[H:12])([O:5][O:6][H:8])[H:10],71.22815250001054
MR_597397_1,[C:1]1([O:5][H:8])([H:11])[N:3]([H:10])[C:2]([O:6][H:9])([H:12])[C:4]([H:13])=[N:7]1>>[C:1](\[O:5][H:8])(=[N:7]/[C:4](/[C:2](=[N:3]/[H:10])[H:12])([O:6][H:9])[H:13])[H:11],40.435472499995626
MR_149703_1,[C:1]([C:2]([C:4]([C:5](=[C:6]([H:18])[H:19])[O:7][H:10])=[O:9])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([O:8][H:11])[H:12]>>[C:1]([C:2]([C:4]([C:3]([H:15])([H:16])[H:17])([C:5](=[C:6]([H:18])[H:19])[O:7][H:10])[O:9][H:11])([H:13])[H:14])(=[O:8])[H:12],69.84702500000196
MR_468370_1,[C@:1]([C:2]([H:11])([H:12])[H:13])([O:5][H:8])(/[N:7]=[C:4](/[C:3]([H:14])([H:15])[H:16])[O:6][H:9])[H:10]>>[C:1](\[C:2]([H:11])([H:12])[H:13])(=[N:7]\[C:4]([C:3]([H:14])([H:15])[H:16])([O:5][H:8])[O:6][H:9])[H:10],59.851577500019886
MR_160319_1,[C@:1]([C:2]([N:6][O:7])([H:12])[H:13])([N:4]([C:3]([H:14])([H:15])[H:16])[H:8])([N:5]([H:10])[H:11])[H:9]>>[C@@:1]1([N:5]([H:10])[H:11])([H:9])[C:2]([H:12])([H:13])[N:6]1[O:7][N:4]([C:3]([H:14])([H:15])[H:16])[H:8],70.31576749999559
MR_56043_0,[C@@:1]([C:4]([C:2]([H:13])([H:14])[H:15])=[O:8])(/[C:5](=[C:6](\[C:3]([H:16])([H:17])[H:18])[H:12])[H:11])([O:7][H:9])[H:10]>>[C:1](=[C:5](\[C@:6]([C:3]([H:16])([H:17])[H:18])([C:4]([C:2]([H:13])([H:14])[H:15])=[O:8])[H:12])[H:11])(\[O:7][H:9])[H:10],58.497432499978856
MR_76595_1,[C:1]1([N:6]([H:10])[H:11])([H:9])[C:5]([C:3]([H:15])([H:16])[H:17])([N:4]([C:2]([H:12])([H:13])[H:14])[H:8])[O:7]1>>[C:1]([N:4]([C:2]([H:12])([H:13])[H:14])[H:8])([C:5]([C:3]([H:15])([H:16])[H:17])=[O:7])([N:6]([H:10])[H:11])[H:9],26.83378249998711
MR_112473_0,[C:1]([N:4](/[C:5]([C:3]([H:14])([H:15])[H:16])=[N:6]/[C:2]([H:11])([H:12])[H:13])[H:7])([H:8])([H:9])[H:10]>>[C:1]([N:6]([C:2]([H:11])([H:12])[H:13])/[C:5]([C:3]([H:14])([H:15])[H:16])=[N:4]/[H:7])([H:8])([H:9])[H:10],70.79204000000587
MR_361047_2,[C:1]12([H:8])[C:2]([H:9])([C:4]([C:5]([H:14])([H:15])[H:16])([H:11])[C:3]1([N:6]([H:12])[H:13])[H:10])[O:7]2>>[C:1]1([C:2](=[O:7])[H:9])([H:8])[C:3]([N:6]([H:12])[H:13])([H:10])[C:4]1([C:5]([H:14])([H:15])[H:16])[H:11],59.83965499997865
MR_491035_1,[N:1](\[N:5]([H:11])[H:12])=[C:6](/[C:4]1([O:7][H:9])[N:2]([H:10])[C:3]1=[O:8])[H:13]>>[n:1]1([N:5]([H:11])[H:12])[c:3](=[O:8])[n:2]([H:10])[c:4]([O:7][H:9])[c:6]1[H:13],35.92312000000973
MR_173577_2,[C:1]([C:3](=[C:2]([O:4][H:9])[O:5][H:8])/[N:6]=[N:7]\[H:10])([H:11])([H:12])[H:13]>>[C:1](/[C:3]([C:2]([O:4][H:9])=[O:5])=[N:6]/[N:7]([H:8])[H:10])([H:11])([H:12])[H:13],14.43249999997974
MR_296175_0,[C:1](=[C:3](\[C:2]([N:5]([H:12])[H:13])=[O:8])[N:6]([H:14])[H:15])(\[N:4]([H:10])[H:11])[O:7][H:9]>>[C@@:1]1([N:4]([H:10])[H:11])([O:7][H:9])[C:3]([N:6]([H:14])[H:15])=[C:2]([N:5]([H:12])[H:13])[O:8]1,49.52480999998258
MR_458591_1,[C:1](/[N:8]=[C:5](\[C:2]([H:16])([H:17])[H:18])[N:4](/[C:6]([C:3]([H:19])([H:20])[H:21])=[N:9]/[H:12])[N:7]([H:10])[H:11])([H:13])([H:14])[H:15]>>[C:1]([N:8](/[C:5]([C:2]([H:16])([H:17])[H:18])=[N:4]/[N:7]([H:10])[H:11])/[C:6]([C:3]([H:19])([H:20])[H:21])=[N:9]/[H:12])([H:13])([H:14])[H:15],38.29632499997473
MR_243229_0,[C:1]1([H:9])([H:10])[N:6]([C:3]([H:14])([H:15])[H:16])[N:5]([C:2]([H:11])([H:12])[H:13])[C:7]([C:4]([H:17])([H:18])[H:19])=[N:8]1>>[C:1]1([H:9])([H:10])[N:6]([C:3]([H:14])([H:15])[H:16])[N:8]1/[C:7]([C:4]([H:17])([H:18])[H:19])=[N:5]/[C:2]([H:11])([H:12])[H:13],67.27615750000098
MR_198138_0,[C@:1]([C:2]([H:12])([H:13])[H:14])([N:4]([N:6]([H:10])[H:11])[H:8])([C:5]([C:3]([H:15])([H:16])[H:17])=[O:7])[H:9]>>[C@@:1]1([C:2]([H:12])([H:13])[H:14])([H:9])[C@:5]([C:3]([H:15])([H:16])[H:17])([N:4]([N:6]([H:10])[H:11])[H:8])[O:7]1,72.33004249997506
MR_308056_1,[C:1]1([C:3]([N:5]([C:4]([H:15])([H:16])[H:17])[C:6](=[O:8])[H:14])([H:12])[H:13])([H:9])[C:2]([H:10])([H:11])[O:7]1>>[C:1]1([C:2]([O:7][C:6](=[O:8])[H:14])([H:10])[H:11])([H:9])[C:3]([H:12])([H:13])[N:5]1[C:4]([H:15])([H:16])[H:17],65.04225750004096
MR_334183_1,[C:1]([N:4]([H:8])[H:9])(/[C:5](=[C:3](\[C:2]([H:13])([H:14])[H:15])[O:6][H:7])[H:12])([H:10])[H:11]>>[C:1](=[C:5]([C:3]([C:2]([H:13])([H:14])[H:15])([N:4]([H:8])[H:9])[O:6][H:7])[H:12])([H:10])[H:11],64.45491749999007
MR_545837_0,[C:1]([C:2]([H:13])([H:15])[H:16])([C:3]([H:14])([H:17])[H:18])=[C:7]([C:6]([N:5]([C:4]([H:19])([H:20])[H:21])[H:10])([O:8][H:9])[H:11])[H:12]>>[C:1]([C:2]([H:13])([H:15])[H:16])([C:3]([H:14])([H:17])[H:18])([N:5]([C:4]([H:19])([H:20])[H:21])[H:10])/[C:7](=[C:6](/[O:8][H:9])[H:11])[H:12],66.45978000002899
